US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and p-phenoxybenzoyl chloride, there is obtained ethyl N-(p-phenoxybenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a foam, mass spectrum m/e: M+ 462 (8), 433 (5), 197 (30), 194 (100);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | p-phenoxybenzoyl chloride | O(C1=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO2
product | ethyl N-(p-phenoxybenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | O(C1=CC=CC=C1)C1=CC=C(C(=O)N=C(OCC)N2CC3=C(C4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C30H26N2O3
